US05665597
Decomposition of TCE in soil using KB2 strain (inducer: 100 ppm of p-cresol/m-cresol)
In the culture system with m-cresol, TCE was remarkably decomposed after about 18 hours of the induction period, and 10 ppm of TCE was completely decomposed after 36 hours. In the culture system with p-cresol, decomposition of TCE remarkably progressed in the first 12 hours, and 10 ppm of TCE was completely decomposed after 18 hours. Quantitative analyses of p-cresol and m-cresol were done at this point in accordance with the JIS detection method using p-hydrazidebenzenesulfonic acid (JIS K 0102-1993, 28.2), and no cresol was detected.

reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | cresol | C1(=CC=CC=C1O)C | C7H8O
product | p-cresol m-cresol | C1=CC(=CC=C1O)C.C1=C(C=CC=C1O)C | 2C7H8O
